US09388161B2
Step 2. (S)-(5-cyclobutoxy-2-methyl-6-(2H-1,2,3-triazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone
A mixture of (S)-cyclopropyl(5-hydroxy-2-methyl-6-(2H-1,2,3-triazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone (0.055 g, 0.18 mmol), bromocyclobutane (0.050 g, 0.37 mmol), and cesium carbonate (0.150 g, 0.46 mmol) in acetonitrile (5 mL) stirred for 18 h at 80° C. The reaction mixture was cooled to room temperature and filtered, and the filtrate was concentrated under vacuum. The residue was purified by preparative-HPLC with the following conditions (Waters 1): Column, XBridge Prep C18 OBD Column, 5 um, 19×150 mm; mobile phase, water (0.03% aqueous ammonia) and acetonitrile (16% to 34% acetonitrile in 10 min, flow rate: 20 mL/min); Detector: UV 220&254 nm. This afforded (S)-(5-cyclobutoxy-2-methyl-6-(2H-1,2,3-triazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.030 g, 45%) as a white solid. 1H NMR (300 MHz, CD3OD) δ ppm 0.67-0.75 (m, 1H), 0.85-0.95 (m, 2H), 1.11-1.17 (m, 4H), 1.22-1.55 (m, 3H), 1.74-2.01 (m, 5H), 2.31-2.46 (m, 2H), 2.95-3.07 (m, 1H), 3.88-3.94 (m, 1H), 4.72-4.82 (m, 1H), 7.28 (d, J=8.40 Hz, 1H), 7.37 (d, J=8.40 Hz, 1H), 7.99 (s, 2H). MS (ESI, pos. ion) m/z 353 [M+H]+.

reactant | (S)-cyclopropyl(5-hydroxy-2-methyl-6-(2H-1,2,3-triazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone | 0.18 mmol, 0.055 g | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)N1N=CC=N1)O)C | C16H18N4O2
reactant | bromocyclobutane | 0.37 mmol, 0.050 g | BrC1CCC1 | C4H7Br
reactant | cesium carbonate | 0.46 mmol, 0.150 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (S)-(5-cyclobutoxy-2-methyl-6-(2H-1,2,3-triazol-2-yl)-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1N1N=CC=N1)C(=O)C1CC1)C | C20H24N4O2
